US06211242B1
A solution of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(6-methoxycarbonyl-5-hexenyloxy)phenyl]benzamide (360 mg) and nickel chloride hexahydrate (594 mg) in methanol (15 ml) and tetrahydrofuran (15 ml) was treated at 0° C. with sodium borohydride (283 mg) and stirred at 0° C. for 4 hours. The reaction mixture was diluted with tetrahydrofuran and filtered through a bed of Celite and then concentrated. The residue was diluted with ethyl acetate and washed with water and brine. The organic layer was dried over magnesium sulfate, concentrated to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(6-methoxycarbonylhexyloxy)phenyl]benzamide (340 mg).

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(6-methoxycarbonyl-5-hexenyloxy)phenyl]benzamide | 360 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCCC=CC(=O)OC)C)C=C1 | C36H36N2O5
reactant | sodium borohydride | 283 mg | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | nickel chloride hexahydrate | 594 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(6-methoxycarbonylhexyloxy)phenyl]benzamide | 340 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCCCCC(=O)OC)C)C=C1 | C36H38N2O5
